US07709471B2
3-ethylamino-N-methyl-propanamide
N-methylacrylamide (ABCR: 851 mg, 10.00 mmol) and ethylamine (2 M in methanol, 10 mL, 20.00 mmol) were combined in a microwave reaction vessel, which was sealed and irradiated at 140° C. for 30 mins. The reaction mixture was allowed to cool and then loaded directly onto a 50 g SCX-2 cartridge, washing with methanol (100 mL) and eluting the desired product with 7 N methanolic ammonia (100 mL). Concentration under reduced pressure of product containing fractions gave the title compound as a clear oil (1.285 g; 99%)

reactant | N-methylacrylamide | 10.00 mmol, 851 mg | CNC(C=C)=O | C4H7NO
reactant | ethylamine | 20.00 mmol, 2 M, 10 mL | C(C)N | C2H7N
product | 3-ethylamino-N-methyl-propanamide | 1.285 g, 99% | C(C)NCCC(=O)NC | C6H14N2O
